US07183306B2
(2E)-3-[4-(Benzyloxy)phenyl]-1-cyclopropyl-2-propen-1-one (6.25 g) was suspended in EtOH (67.5 ml), acetone (22.5 ml) To this mixture was added hydrogen peroxide 30% aqueous solution (4.5 ml), and 3M NaOH (4.5 ml), and the mixture was stirred at ambient temperature for l day. The mixture was diluted with H2O. White precipitates were collected and washed with H2O, and air dried to give {(2R,3S)-3-[4-(benzyloxy)phenyl]-2-oxiranyl}(cyclopropyl)methanone (6.27 g).

reactant | (2E)-3-[4-(Benzyloxy)phenyl]-1-cyclopropyl-2-propen-1-one | 6.25 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)/C=C/C(=O)C1CC1 | C19H18O2
reactant | acetone | 22.5 ml | CC(=O)C | C3H6O
reactant | hydrogen peroxide | OO | H2O2
reactant | NaOH | 3M, 4.5 ml | [OH-].[Na+]
solvent | EtOH | 67.5 ml | CCO | C2H6O
solvent | H2O | O | H2O
product | {(2R,3S)-3-[4-(benzyloxy)phenyl]-2-oxiranyl}(cyclopropyl)methanone | 6.27 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)[C@H]1[C@@H](O1)C(=O)C1CC1 | C19H18O3
